### PR TITLE
Fix imports

### PR DESCRIPTION
**Pull request by tobiasgrosser**

### CODE REVIEW

**Comment by tobiasgrosser** [comment]
merge as trivial

File: SSA/Projects/InstCombine/ForLean.lean [hunk 1]
```diff
@@ -208,14 +209,33 @@ lemma toNat_neq_of_neq_ofNat {a : BitVec w} {n : Nat} (h : a ≠ n#w) : a.toNat
...
+    simp at h
+    rw [Nat.mod_eq_of_lt]
+    rw [Nat.mod_eq_of_lt]
+    omega
+    omega
+    rw [Nat.mod_eq_of_lt]
+    omega
+    omega
+
 lemma neg_neq_iff_neq_neg {a b : BitVec w} : -a ≠ b ↔ a ≠ -b:= by
```
Comment (bollu) [inline SSA/Projects/InstCombine/ForLean.lean:230]: It's a shame that we need to reprove things like this. This in mathlib I am willing to bet follows from a general theory of [involutive functions](https://en.wikipedia.org/wiki/Involution_(mathematics))
